* tb_zc_corner_sf.spice — sf corner clamp onset
.lib "../sky130.lib.spice" sf
.include "design.cir"
Vpvdd pvdd 0 DC 0
Xclamp pvdd 0 zener_clamp
.option reltol=1e-4
.control
dc Vpvdd 0 8 0.005
let i_clamp = -i(Vpvdd)
let idx = 0
let v_1ma = 0
dowhile idx < length(i_clamp)
  if i_clamp[idx] >= 1m
    let v_1ma = v(pvdd)[idx]
    let idx = length(i_clamp)
  end
  let idx = idx + 1
end
echo "corner_sf_onset_1mA_V: $&v_1ma"
quit
.endc
.end
